US04977167
1-(3-Chloropropylcarbamoyl)-2-oxopyrrolidine (III-2)
A mixture of 17.1 g (201 mmol) of 2-oxopyrrolidine and 20 g (167 mmol) of chloropropyl isocyanate was heated with stirring at 95°-105° C. overnight. After cooling, the reaction solution was refined by silica gel chromatography. The resulting product obtained from the eluate with toluene-ethyl acetate (20/1-10/1 v/v) was washed with ether-n-hexane and then collected by filtration, whereby 27.87 g of the objective compound 1-(3-chloropropylcarbamoyl)-2-oxopyrrolidine (III-2) melting at 57.0°-58.0° C. was obtained as crystals. Yield: 81.0%.

reactant | 2-oxopyrrolidine | 201 mmol, 17.1 g | O=C1NCCC1 | C4H7NO
reactant | chloropropyl isocyanate | 167 mmol, 20 g | ClCCCN=C=O | C4H6ClNO
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | 1-(3-Chloropropylcarbamoyl)-2-oxopyrrolidine | 27.87 g, Yield: 81.0% | ClCCCNC(=O)N1C(CCC1)=O | C8H13ClN2O2
